US04093726
4-(5,6-Dimethoxy-2-benzimidazolyl) piperazine-1-carboxylic acid isobutyl ester-hydrochloride
3.40 g 2-chloro-5,6-dimethoxy benzimidazole, 7.50 g piperazine N-carboxylic acid isobutyl ester (described in U.S. 3,635,979, Example LVII) and 25 ml 2-methoxyethanol were reacted as in Example I to give the base of the desired product as a gum. This was washed free of starting amine with water, then dissolved in isopropyl alcohol and acidified with HCl gas to give 5.30 g product HCl salt, mp 248°-250° C

reactant | 2-chloro-5,6-dimethoxy benzimidazole | 3.40 g | ClC=1NC2=C(N1)C=C(C(=C2)OC)OC | C9H9ClN2O2
reactant | piperazine N-carboxylic acid isobutyl ester | 7.50 g | C(C(C)C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | 2-methoxyethanol | 25 ml | COCCO | C3H8O2
product | 4-(5,6-Dimethoxy-2-benzimidazolyl) piperazine-1-carboxylic acid isobutyl ester-hydrochloride | Cl.C(C(C)C)OC(=O)N1CCN(CC1)C=1NC2=C(N1)C=C(C(=C2)OC)OC | InChI=1S/C18H26N4O4.ClH/c1-12(2)11-26-18(23)22-7-5-21(6-8-22)17-19-13-9-15(24-3)16(25-4)10-14(13)20-17;/h9-10,12H,5-8,11H2,1-4H3,(H,19,20);1H
